US07375115B2
N-[1-[3-[2-(3-Cyclohexylpropionamido)phenyl]propyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
To a solution of N-[1-[3-(2-aminophenyl)propyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide (100 mg) and cyclohexylpropionic acid (49 mg) in dichloromethane (3 mL) were added 1-hydroxybenzotriazole (42 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (60 mg) under ice cooling. The solution was stirred at room temperature for 64 hours. Chloroform was then added to the solution and the solution was washed in turn with water and saturated aqueous sodium bicarbonate solution. The solution was dried over anhydrous sodium sulfate, and then, concentrated under reduced pressure. The residue was purified by chromatography (NH silica gel, hexane:ethyl acetate=1:2) to give the title compound (120 mg).

reactant | N-[1-[3-(2-aminophenyl)propyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 100 mg | NC1=C(C=CC=C1)CCCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C25H30N4O2
reactant | cyclohexylpropionic acid | 49 mg | C1(CCCCC1)C(C(=O)O)C | C9H16O2
reactant | 1-hydroxybenzotriazole | 42 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 60 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[1-[3-[2-(3-Cyclohexylpropionamido)phenyl]propyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 120 mg | C1(CCCCC1)CCC(=O)NC1=C(C=CC=C1)CCCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C34H44N4O3
